US06214873B1
A solution of diethyl 2-acetamidomalonate (30.6 g), sodium ethoxide (7.6 g) and molecular sieves 3A (5.5 g) in ethanol (80 ml) was stirred at room temperature for 20 hours. A solution of 1-[4-(2-iodoethyl)phenyl]-5-phenylpentan-1-one (18.4 g) in tetrahydrofuran (60 ml) was added thereto over 10 minutes and the mixture was refluxed under heating for 15 hours. The reaction mixture was poured into water (200 ml) and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure to give a brown oily substance (40 g). The obtained brown oily substance was purified by silica gel column chromatography (eluent; hexane: ethyl acetate=2:1) to give diethyl 2-acetamido-2-{2-[4-(1-oxo-5-phenylpentyl)phenyl]ethyl}malonate (13.8 g) as a pale yellow oily substance.

reactant | diethyl 2-acetamidomalonate | 30.6 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethoxide | 7.6 g | [O-]CC.[Na+]
reactant | 1-[4-(2-iodoethyl)phenyl]-5-phenylpentan-1-one | 18.4 g | ICCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)=O | C19H21IO
reactant | water | 200 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | diethyl 2-acetamido-2-{2-[4-(1-oxo-5-phenylpentyl)phenyl]ethyl}malonate | 13.8 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)=O | C28H35NO6
